US07601716B2
7-Bromo-4-[1-iodomethylidene]-1,2,3,4-tetrahydro-[1,8]naphthyridine
To a suspension of 7-bromo-2,3-dihydro-1H-[1,8]naphthyridin-4-one (1.5 g) in anhydrous tetrahydrofuran (195 mL) was added a solution of CrCl2 (6.79 g, 8.35 eq) and CHI3 (5.55 g, 2.13 eq) in anhydrous tetrahydrofuran (66 mL). The reaction was stirred at room temperature for 16 hours, diluted with methylene chloride (300 mL), and then washed with saturated NaHCO3 (300 mL). The aqueous phase was extracted twice with methylene chloride (100 mL) and the combined organic layers were washed with brine and then dried over Na2SO4. The solution was filtered and concentrated under reduced pressure. Silica gel chromatography using a gradient of 0-30% ethyl acetate/hexane as the eluting solvent gave the title compound as a yellow solid (27% yield). Alkene geometry was determined by nOe. LCMS: m/z=352 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.69 (t, J=6.0 Hz, 2H), 3.43-3.51 (m, 2H), 5.25 (bs, 1H), 6.23 (s, 1H), 6.74 (d, J=8.0 Hz, 1H), 8.19 (d, J=8.0 Hz, 1H).

reactant | 7-bromo-2,3-dihydro-1H-[1,8]naphthyridin-4-one | 1.5 g | BrC1=CC=C2C(CCNC2=N1)=O | C8H7BrN2O
reactant | CHI3 | 5.55 g, 2.13 eq | C(I)(I)I | CHI3
solvent | tetrahydrofuran | 195 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 66 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 7-Bromo-4-[1-iodomethylidene]-1,2,3,4-tetrahydro-[1,8]naphthyridine | 27% yield | BrC1=CC=C2C(CCNC2=N1)=CI | C9H8BrIN2
